US05278152
Preparation of diethyl 2-formylbenzylphosphonate (A)
47.9 g (0.31 mol) of 2-chloromethylbenzaldehyde were heated to 160° C. together with 51.5 g (0.31 mol) of triethyl phosphite. Ethyl chloride distilled off during the course of this. The product was purified by fractional distillation.

reactant | 2-chloromethylbenzaldehyde | 0.31 mol, 47.9 g | ClCC1=C(C=O)C=CC=C1 | C8H7ClO
reactant | triethyl phosphite | 0.31 mol, 51.5 g | P(OCC)(OCC)OCC | C6H15O3P
product | diethyl 2-formylbenzylphosphonate | C(=O)C1=C(CP(OCC)(OCC)=O)C=CC=C1 | C12H17O4P
